US07205297B2
Preparation of 4-chloro-5-(4-chlorophenylethynyl)pyrimidine
A mixture of 0.6 g of 1-chloro-4-ethynylbenzene, 1.44 g of 4-chloro-5-iodopyrimidine (J. Chem. Soc. Perkins Trans. I, 1977,621, Allen et al), 7.0 cc of triethylamine, 58 mg of copper iodide and 108 mg of dichlorobis(triphenylphosphine)palladium II was stirred at room temperature under nitrogen for 18 hours. The reaction mixture was evaporated in vacuo. The resulting tan solid was partitioned between water and dichloromethane and the organic extracts washed twice with water, dried over sodium sulfate and evaporated to give a dark brown solid, 1.57 g. The solid was redissolved in dichloromethane and hexanes added to give 120 mg of a beige powder after filtration. The filtrate was purified by column chromatography on silica gel using 1:1 ethyl acetate/dichloromethane as the eluant. The middle rf spot fractions (silica gel TLC in 1:1) were pooled and evaporated to give 0.8 g of a yellow solid, 4-chloro-5-(4-chlorophenylethynyl)-pyrimidine

reactant | 1-chloro-4-ethynylbenzene | 0.6 g | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | 4-chloro-5-iodopyrimidine | 1.44 g | ClC1=NC=NC=C1I | C4H2ClIN2
reactant | triethylamine | 7.0 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper iodide | 58 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 108 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-5-(4-chlorophenylethynyl)pyrimidine | 120 mg | ClC1=NC=NC=C1C#CC1=CC=C(C=C1)Cl | C12H6Cl2N2
